US08541588B2
4-[2-(5-amino-1H-pyrazol-4-yl)-4-chlorophenoxy]-5-chloro-2-fluoro-N-1,3-thiazol-4-ylbenzenesulfonamide
To a suspension of sodium hydride (29 mg, 1.2 mmol) in dimethylformamide (1 mL) was added N-(1-tert-butyl-4-(5-chloro-2-hydroxyphenyl)-1H-pyrazol-5-yl)-2,2,2-trifluoroacetamide (Preparation 209, 239 mg, 0.661 mmol) and stirred for 30 minutes. To this was added tert-butyl 5-chloro-2,4-difluorophenylsulfonyl(thiazol-4-yl)carbamate (Preparation 453, 206 mg, 0.501 mmol) and stirred for 24 hours. After this time only a small amount of product was observed, so potassium carbonate (40 mg, 0.3 mmol) was added and the reaction heated at 55° C. for 3 days. The reaction was cooled, diluted with ethyl acetate and the organic extract washed with water and saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered and concentrated in vacuo. Purification by automated flash column chromatography eluting with ethyl acetate:hexanes (gradient 0:1 to 1:0, by volume) afforded fully protected product. This residue was dissolved in methanol (1 mL) and sodium carbonate solution (2 M aqueous, 0.08 mL, 0.2 mmol) and water (0.2 mL) added. The reaction was stirred at room temperature for 6 hours and then heated at 55° C. for 16 hours before concentrating in vacuo and passing through a short silica gel column eluting with methanol:dichloromethane (gradient 0:1 to 1:9, by volume). All product related fractions were combined, concentrated in vacuo, dissolved in methanol (saturated in gaseous hydrogen chloride) and heated at 50° C. for 16 hours. Purification by preparative HPLC afforded the title compound as a white solid, 31 mg, 12% yield.

reactant | sodium hydride | 1.2 mmol, 29 mg | [H-].[Na+]
reactant | N-(1-tert-butyl-4-(5-chloro-2-hydroxyphenyl)-1H-pyrazol-5-yl)-2,2,2-trifluoroacetamide | 0.661 mmol, 239 mg | C(C)(C)(C)N1N=CC(=C1NC(C(F)(F)F)=O)C1=C(C=CC(=C1)Cl)O | C15H15ClF3N3O2
reactant | tert-butyl 5-chloro-2,4-difluorophenylsulfonyl(thiazol-4-yl)carbamate | 0.501 mmol, 206 mg | ClC=1C(=CC(=C(C1)S(=O)(=O)N(C(OC(C)(C)C)=O)C=1N=CSC1)F)F | C14H13ClF2N2O4S2
reactant | potassium carbonate | 0.3 mmol, 40 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium carbonate | 0.2 mmol, 2 M, 0.08 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1 mL | CO | CH4O
solvent | water | 0.2 mL | O | H2O
product | 4-[2-(5-amino-1H-pyrazol-4-yl)-4-chlorophenoxy]-5-chloro-2-fluoro-N-1,3-thiazol-4-ylbenzenesulfonamide | 12% yield | NC1=C(C=NN1)C1=C(OC2=CC(=C(C=C2Cl)S(=O)(=O)NC=2N=CSC2)F)C=CC(=C1)Cl | C18H12Cl2FN5O3S2
